US06475957B1
d) 2-Methoxy-4-methylsulfanyl-3-vinylbenzoic acid
At −100° C., n-BuLi (25 ml, 15% strength in n-hexane, 4.1 mmol) was added to a solution of 1-bromo-2-methoxy-4-methylsulfanyl-3-vinylbenzene (7 g, 31.3 mmol) in THF (300 ml), and the mixture was stirred at −100° C. for 20 min. At −100° C., CO2 was then introduced (exothermic reaction up to −60° C.). At -80 to −90° C., the mixture was then stirred for another 1 h, and NaOH (100 ml) was added dropwise at −40° C. The solution was stirred into EtOAc (400 ml), and the mixture was extracted 3× with 5% strength NaOH and acidified to a pH=1 using 10% strength HCl. The H2O phase was extracted with EtOAc (300 ml), and the combined organic phases were dried over MgSO4 and concentrated.

reactant | n-BuLi | 4.1 mmol, 25 ml | [Li]CCCC
reactant | 1-bromo-2-methoxy-4-methylsulfanyl-3-vinylbenzene | 31.3 mmol, 7 g | BrC1=C(C(=C(C=C1)SC)C=C)OC | C10H11BrOS
reactant | CO2 | C(=O)=O | CO2
reactant | NaOH | 100 ml | [OH-].[Na+]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 400 ml | CCOC(=O)C | C4H8O2
product | 2-Methoxy-4-methylsulfanyl-3-vinylbenzoic acid | COC1=C(C(=O)O)C=CC(=C1C=C)SC | C11H12O3S
